US07262206B2
(7) 1-acetyl-5-propionyl-3-(1-methoxy-propylidene)-2-indolinone
Prepared from 1-acetyl-5-propionyl-2-indolinone and trimethyl orthopropionate

reactant | 1-acetyl-5-propionyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(CC)=O)=O | C13H13NO3
reactant | trimethyl orthopropionate | C(CC)(OC)(OC)OC | C6H14O3
product | 1-acetyl-5-propionyl-3-(1-methoxy-propylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(CC)=O)=C(CC)OC)=O | C17H19NO4
